US05334600
A solution of 6-bromo-2-{[5-(4-fluorophenyl)-2-pyridyl]methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline (500 mg, 1.22 mmol) and 3-butyn-1-ol (170 mg, 0.19 mL, 2.44 mmol) in diethylamine (20 mL) is de-gassed with argon. After 20 minutes, pallasium bis(diphenylphosphino) chloride (85 mg, 0.12 mmol) and cuprous iodide (13 mg, 0.12 mmol) are added and the resulting solution is stirred at ambient temperature for 12 hours. The reaction mixture is then diluted with EtOAc (20 mL), dried over MgSO4, filtered through celite and concentrated in vacuo. The residue is chromatographed (silica gel, 1:1 then 2:1 EtOAc/hexanes) to afford 6-[3-hydroxy-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline as yellow oil.

reactant | 6-bromo-2-{[5-(4-fluorophenyl)-2-pyridyl]methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline | 1.22 mmol, 500 mg | BrC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F | C21H16BrFN2O
reactant | 3-butyn-1-ol | 2.44 mmol, 0.19 mL, 170 mg | C(CC#C)O | C4H6O
reactant | diethylamine | 20 mL | C(C)NCC | C4H11N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 6-[3-hydroxy-1-butyn-1-yl]-2-{[5-(4-fluorophenyl)-2-pyridyl]-methyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline | OC(C#CC=1C=C2CCN(C(C2=CC1)=O)CC1=NC=C(C=C1)C1=CC=C(C=C1)F)C | C25H21FN2O2
